US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-{[(cyclohexylamino)carbonyl]amino}-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF and 0.2 ml of DMF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 26.8 mg (0.21 mmol) of cyclohexyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of methanol and 1 N hydrochloric acid (2:1), again concentrated and dried under high vacuum. 23.4 mg (47.3% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | cyclohexyl isocyanate | 0.21 mmol, 26.8 mg | C1(CCCCC1)N=C=O | C7H11NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-{[(cyclohexylamino)carbonyl]amino}-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1CCCCC1 | InChI=1S/C23H30N4O2S.ClH/c28-22(26-19-14-27-10-8-15(19)9-11-27)21-12-16-6-7-18(13-20(16)30-21)25-23(29)24-17-4-2-1-3-5-17;/h6-7,12-13,15,17,19H,1-5,8-11,14H2,(H,26,28)(H2,24,25,29);1H/t19-;/m0./s1
